US07399759B2
6-(4-Methoxyphenyl)-2-pyridinecarbonitrile
6-Chloro-2-pyridinecarbonitrile (0.70 g, 5.0 mmol) and 4-methoxyphenylboric acid (1.17 g, 7.7 mmol) were dissolved in toluene (60 ml)-ethanol (15 ml), and potassium carbonate (1.75 g, 12.6 mmol) and water (15 ml) were added thereto. The mixture was deairated under reduced pressure for 10 minutes. Tetrakis(triphenylphosphine)palladium (0) (0.29 g, 0.25 mmol) was added to the reaction mixture under argon atmosphere, and the mixture was refluxed for 16 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (4:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (0.94 g, 88%).

reactant | 6-Chloro-2-pyridinecarbonitrile | 5.0 mmol, 0.70 g | ClC1=CC=CC(=N1)C#N | C6H3ClN2
reactant | 4-methoxyphenylboric acid | 7.7 mmol, 1.17 g | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
reactant | potassium carbonate | 12.6 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.25 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 15 ml | O | H2O
product | 6-(4-Methoxyphenyl)-2-pyridinecarbonitrile | 0.94 g, 88% | COC1=CC=C(C=C1)C1=CC=CC(=N1)C#N | C13H10N2O
